US05543298
1,4,6-Trimethyl-2-vinylpyridinium tetrafluoroborate:
Trimethyloxonium tetrafluoroborate (0.50 g; 3.76×10-3 mol) is added in one portion to a solution of 4,6-dimethyl-2-vinylpyridine (0.61 g; 4.13×10-3 mol) in 4.0 ml of methylene chloride under an inert atmosphere. The suspension is left to react for 2 h at 25° C. The suspension is filtered and the product is dried under vacuum. Yield=0.162 g (18%), white crystals.

reactant | Trimethyloxonium tetrafluoroborate | 3.76×10-3 mol, 0.50 g | F[B-](F)(F)F.C[O+](C)C
reactant | 4,6-dimethyl-2-vinylpyridine | 4.13×10-3 mol, 0.61 g | CC1=CC(=NC(=C1)C)C=C | C9H11N
solvent | methylene chloride | 4.0 ml | C(Cl)Cl | CH2Cl2
product | 1,4,6-Trimethyl-2-vinylpyridinium tetrafluoroborate | F[B-](F)(F)F.C[N+]1=C(C=C(C=C1C)C)C=C | InChI=1S/C10H14N.BF4/c1-5-10-7-8(2)6-9(3)11(10)4;2-1(3,4)5/h5-7H,1H2,2-4H3;/q+1;-1
